US05091384
Preparation of 1-cyclopropyl-6,8-difluoro-7-[7-methyl-3,7-diazabicyclo[3.3.0 ]oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (KR 10845)
1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (0.42 g), 3-methyl-3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide (0.47 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU, 0.63 g) were dissolved in acetonitrile (20 ml) and refluxed for 7 hours. The reaction mixture was kept at room temperature overnight and then the produced precipitate was filtered, washed with acetonitrile and methanol to give the title compound 0.36 g (yield 62%).

reactant | 1-Cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.42 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-methyl-3,7-diazabicyclo[3.3.0]oct-1(5)-ene dihydrobromide | 0.47 g | Br.Br.CN1CC=2CNCC2C1
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.63 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 1-cyclopropyl-6,8-difluoro-7-[7-methyl-3,7-diazabicyclo[3.3.0 ]oct-1(5)-en-3-yl]-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.36 g, yield 62% | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC=2CN(CC2C1)C)F)=O)C(=O)O | C20H19F2N3O3
